US07214694B2
Preparation 16: tert-butyl(3R)-6-cyclohexyl-3-(3-{[(3-pyridinylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method same as Preparation 14 using tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (200 mg, 057 mmol) and 3-pyridinesulphonylchloride (EP911333) (134 mg, 0.63 mmol) as starting materials.

reactant | tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 200 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | 3-pyridinesulphonylchloride | 0.63 mmol, 134 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | tert-butyl(3R)-6-cyclohexyl-3-(3-{[(3-pyridinylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNS(=O)(=O)C=1C=NC=CC1 | C24H36N4O5S
